US07557136B2
To a solution of 1-tert-butyl 2-ethyl (2S,4R)-4-hydroxypyrrolidine-1,2-dicarboxylate (100 g, 0.38 mol) in dry dichloromethane (1.51) at 25° C. was added DMAP (47 g, 0.38 mol), followed by triethylamine (39 g, 0.38 mol). To the above reaction mixture was added TBDMSCl (64 g, 0.42 mol) dissolved in dry dichloromethane (200 ml) drop-wise over a period of 45 min. After stirring at RT for 20 h, the reaction mixture was diluted with water and separated the organic layer. The organic layer was washed with 5% aq. citric acid, brine and dried over Na2SO4. The solvent was removed under vacuum to give 1-tert-butyl 2-ethyl (2S,4R)-4-{[tert-butyl(dimethyl)silyl]oxy}pyrrolidine-1,2-dicarboxylate (140 g) as a colorless liquid. Yield: 97%

reactant | 1-tert-butyl 2-ethyl (2S,4R)-4-hydroxypyrrolidine-1,2-dicarboxylate | 0.38 mol, 100 g | O[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OCC | C12H21NO5
reactant | triethylamine | 0.38 mol, 39 g | C(C)N(CC)CC | C6H15N
reactant | TBDMSCl | 0.42 mol, 64 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | DMAP | 0.38 mol, 47 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 1-tert-butyl 2-ethyl (2S,4R)-4-{[tert-butyl(dimethyl)silyl]oxy}pyrrolidine-1,2-dicarboxylate | 140 g, Yield: 97% | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OCC | C18H35NO5Si
